US06043210
15-Hydroxy-7-thiapentadecanoic acid (9, n=3, m=7, R=H):
a solution of 14 g (0.11 mol) of tetramethylthiourea and 28 g (0.10 mol) of ethyl 6-iodocaproate in 220 ml of dry acetonitrile was heated under reflux for 2 h. In a further reaction vessel 23 g (0.16 mol) of 1,8-octanediol was dissolved in 650 ml of dry acetonitrile under argon, the solution was treated with 4.5 g (0.11 mol) of a 60 percent sodium hydride suspension in mineral oil and heated under reflux for 45 min. Both batches were left to cool to 50° C. and thereupon combined cautiously within 30 min. The combined reaction mixtures were heated to reflux for 14 h., subsequently saponified with 60 ml of 10 percent potassium hydroxide solution for 3 h. at room temp., concentrated on a rotary evaporator and then added to 1 l of water. The mixture was extracted twice with 500 ml of MTBE each time, and the organic extracts were washed three times with 50 ml of 2N sodium hydroxide solution each time. The aqueous phase was acidified with conc. phosphoric acid and extracted three times with 500 ml of MTBE each time. After drying the combined organic extracts over magnesium sulphate and removing the solvent on a rotary evaporator 22 g of crude 15-hydroxy-7-thiapentadecanoic acid as a yellowish wax-like solid was obtained. An analytical sample was obtained after flash chromotography (MTBE/n-pentane, 2:1, hRf =33) on silica gel.

reactant | tetramethylthiourea | 0.11 mol, 14 g | CN(C(N(C)C)=S)C | C5H12N2S
reactant | ethyl 6-iodocaproate | 0.10 mol, 28 g | ICCCCCC(=O)OCC | C8H15IO2
reactant | 1,8-octanediol | 0.16 mol, 23 g | C(CCCCCCCO)O | C8H18O2
reactant | sodium hydride | [H-].[Na+]
reactant | potassium hydroxide | 60 ml | [OH-].[K+]
solvent | acetonitrile | 220 ml | C(C)#N | C2H3N
solvent | acetonitrile | 650 ml | C(C)#N | C2H3N
solvent | MTBE n-pentane | CC(C)(C)OC.CCCCC
product | 15-Hydroxy-7-thiapentadecanoic acid | OCCCCCCCCSCCCCCC(=O)O | C14H28O3S
